US06384061B1
3-1) Synthesis of 2-[(naphthalen-1-ylmethyl)-amino]succinic acid diethyl ester
3.12 ml(19.0 mmol) of diethyl fumarate and 3.0 g(19 mmol) of 1-aminomethyl naphthalene were added to acetonitrile, and then the solution was refluxed for 12 hours. Acetonitrile was removed under reduced pressure and column chromatography was performed using a mixed solution of hexane and ethyl acetate(3:1) as an eluent to obtain 4.57 g of the title compound(Yield 73%, MW 329).

reactant | diethyl fumarate | 19.0 mmol, 3.12 ml | C(\C=C\C(=O)OCC)(=O)OCC | C8H12O4
reactant | 1-aminomethyl naphthalene | 19 mmol, 3.0 g | NCC1=CC=CC2=CC=CC=C12 | C11H11N
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[(naphthalen-1-ylmethyl)-amino]succinic acid diethyl ester | 4.57 g, Yield 73% | C(C)OC(C(CC(=O)OCC)NCC1=CC=CC2=CC=CC=C12)=O | C19H23NO4
